US07968573B2
To a solution of 1.0 g of 2-(4-bromo-1H-imidazol-1-yl)-3-chloropyridine in 5 ml of dichloromethane was added dropwise a solution of 0.45 ml of trichloroacetyl chloride in 5 ml of dichloromethane at room temperature. The resulting mixture was stirred at room temperature for 1 day. Thereto 0.57 ml of triethylamine was added, and the resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, and the resulting residue was subjected to silica gel chromatography to obtain 1.0 g of 1-[4-bromo-1-(3-chloro-2-pyridinyl)-1H-imidazol-2-yl]-2,2,2-trichloroethanone of the formula:

reactant | 2-(4-bromo-1H-imidazol-1-yl)-3-chloropyridine | 1.0 g | BrC=1N=CN(C1)C1=NC=CC=C1Cl | C8H5BrClN3
reactant | trichloroacetyl chloride | 0.45 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | triethylamine | 0.57 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-[4-bromo-1-(3-chloro-2-pyridinyl)-1H-imidazol-2-yl]-2,2,2-trichloroethanone | 1.0 g | BrC=1N=C(N(C1)C1=NC=CC=C1Cl)C(C(Cl)(Cl)Cl)=O | C10H4BrCl4N3O
